US07593820B2
Example 4.1 2-(2-Fluoropyridin-4-yl)-1-phenylethanone
A solution of sodium bis(trimethylsilyl)amide (36 mL, 1M) was diluted with THF (60 mL) and cooled to 0° C. 2-Fluoro-4-methylpyridine (2.0 g, 18 mmol) was then added and after 45 min. at 0° C. ethyl benzoate (3.24 g, 21 mmol) was added dropwise. Stirring was continued for 45 min. and the solution then poured into 2M HCl (100 mL) cooled to 0° C. After thorough mixing, the solution was basified to pH9 with 5M NaOH, and the product extracted into ether (3×30 mL). The ethereal layers were combined and washed with brine (1×30 mL), dried (MgSO4) and concentrated under reduced pressure. The residue was dissolved in a minimum of dichloromethane and precipitated by addition of pet. spirit. The solid was collected and washed with cold pet. spirit to afford the pure product as a pale brown solid (2.8 g, 72%).

reactant | sodium bis(trimethylsilyl)amide | 1M, 36 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-Fluoro-4-methylpyridine | 18 mmol, 2.0 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | ethyl benzoate | 21 mmol, 3.24 g | C(C1=CC=CC=C1)(=O)OCC | C9H10O2
reactant | HCl | 2M, 100 mL | Cl | ClH
reactant | NaOH | 5M | [OH-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-(2-Fluoropyridin-4-yl)-1-phenylethanone | 2.8 g, 72% | FC1=NC=CC(=C1)CC(=O)C1=CC=CC=C1 | C13H10FNO
